US09376436B2
A solution of 4-(3-benzyloxy-4-fluoro-phenyl)-1-methyl-pyrazole (which may be prepared as described in Description 78) (760 mg, 2.69 mmol) in methanol (15 mL) was hydrogenated through a H-Cube using a 10% Pd/C (70 mm cartridge) at 50° C. with a Flow rate of 1 mL/min. The eluent was concentrated in vacuo and gave 2-fluoro-5-(1-methylpyrazol-4-yl)phenol (419.2 mg, 2.0721 mmol, 77% yield) (D79) as a colourless solid;

reactant | 4-(3-benzyloxy-4-fluoro-phenyl)-1-methyl-pyrazole | 2.69 mmol, 760 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1F)C=1C=NN(C1)C | C17H15FN2O
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-fluoro-5-(1-methylpyrazol-4-yl)phenol | 2.0721 mmol, 419.2 mg, 77% yield | FC1=C(C=C(C=C1)C=1C=NN(C1)C)O | C10H9FN2O
